US06794397B2
6-Chloro-N-(4,5-dimethoxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 4,5-dimethoxy-2-nitroaniline as a yellow solid as described in Example 1. 1H NMR (CDCl3): 11.84 (s, 1H), 9.04 (d, J=1.8, 1H), 8.66 (s, 1H), 8.25-8.21 (m, 1H), 7.77 (s, 1H), 7.53 (d, J=8.7, 1H), 4.07 (s, 3H), 3.97 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4,5-dimethoxy-2-nitroaniline | COC1=CC(=C(N)C=C1OC)[N+](=O)[O-] | C8H10N2O4
product | 6-Chloro-N-(4,5-dimethoxy-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C14H12ClN3O5
